US05972975
EXAMPLE 31 5-Acetylamino-2-amino-4-picoline
To a solution of 2,5-diamino-4-picoline, prepared as shown in Example 30, (50 mg, 0.41 mmol) in methylene chloride (1.0 mL) were added triethylamine (70 uL, 0.49 mmol) and acetic anhydride (43 uL, 0.45 mmol). After stirring 0.5 h at room temperature, the reaction mixture 25 was evaporated to dryness and purified by silica gel chromatography using 40:10:1 chloroform-methanol-water as eluant to give the title compound.

reactant | 2,5-diamino-4-picoline | NC1=NC=C(C(=C1)C)N | C6H9N3
reactant | triethylamine | 0.49 mmol, 70 uL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.45 mmol, 43 uL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 5-Acetylamino-2-amino-4-picoline | C(C)(=O)NC=1C(=CC(=NC1)N)C | C8H11N3O
